US07592456B2
Sodium borohydride (21 mg, 0.53 mmol) was added to a solution of 4-{[6-(4-fluorophenyl)naphthalen-2-yl]sulfonyl}thiophene-3-carbaldehyde (42 mg, 0.11 mmol) in MeOH (5 mL) and CH2Cl2 (2 mL) and the mixture stirred at ambient temperature. After 40 minutes, the mixture was partitioned between water (20 mL) and CH2Cl2 (20 mL) and the organic fraction washed with brine (10 mL), dried (MgSO4), filtered and concentrated in vacuo to afford solid material which was washed with Et2O and further dried in vacuo to yield (4-{[6-(4-fluorophenyl)naphthalen-2-yl]sulfonyl}-3-thienyl)methanol as a white solid (40 mg). 1H NMR (400 MHz, d6-DMSO): δ 8.70 (1H, s), 8.59 (1H, d, J=3.4 Hz), 8.34 (2H, t, J=6.2 Hz), 8.19 (1H, d, J=8.8 Hz), 8.03 (1H, dd, J=1.7, 8.6 Hz), 7.93-7.85 (3H, m), 7.53 (1H, d, J=3.4 Hz), 7.38 (2H, t, J=8.9 Hz), 5.31 (1H, t, J=5.6 Hz), 4.53 (2H, d, J=5.7 Hz). m/z (ES+) 384 [(M-OH)+].

reactant | Sodium borohydride | 0.53 mmol, 21 mg | [BH4-].[Na+]
reactant | 4-{[6-(4-fluorophenyl)naphthalen-2-yl]sulfonyl}thiophene-3-carbaldehyde | 0.11 mmol, 42 mg | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C=1C(=CSC1)C=O | C21H13FO3S2
solvent | MeOH | 5 mL | CO | CH4O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (4-{[6-(4-fluorophenyl)naphthalen-2-yl]sulfonyl}-3-thienyl)methanol | 40 mg | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C=1C(=CSC1)CO | C21H15FO3S2
